US07705004B2
To a solution of 2,4-dichloro-7-tosyl-pyrrolo[2,3-d]pyrimidine (0.1 g, 0.28 mmol) in n-butyl alcohol (1 mL) was added 6-aminoindazole (0.043 g, 0.32 mmol) and DIPEA (0.057 mL, 0.32 mmol) at room temperature. After heating at 80° C. for 15 h, the mixture was diluted with ethyl acetate, and the organic layer was sequentially washed with 1N HCl, Sat NaHCO3, and brine. The organic extract was dried over Na2SO4 and concentrated to give crude N-(1H-benzo[d]imidazol-6-yl)-2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.105 g).

reactant | 2,4-dichloro-7-tosyl-pyrrolo[2,3-d]pyrimidine | 0.28 mmol, 0.1 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H9Cl2N3O2S
reactant | 6-aminoindazole | 0.32 mmol, 0.043 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | DIPEA | 0.32 mmol, 0.057 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butyl alcohol | 1 mL | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1H-benzo[d]imidazol-6-yl)-2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.105 g | N1C=NC2=C1C=C(C=C2)NC=2C1=C(N=C(N2)Cl)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C20H15ClN6O2S
